US09102616B2
Intermediate 1: Synthesis of 9-(4-bromo-2-nitrophenyl)phenanthrene
A 500 mL round bottom flask was charged with toluene (250 mL), phenanthracene-9-boronic acid (18.2 g, 82 mmol), 2,5-dibromonitrobenzene (23.1 g, 82.3 mmol), Pd(PPh3)4 (2.8 g, 2.5 mmol), and 2M Na2CO3 aqueous solution (124 mL).

reactant | phenanthracene-9-boronic acid | 82 mmol, 18.2 g | B(C1=CC2=CC=CC=C2C3=CC=CC=C13)(O)O | C14H11BO2
reactant | 2,5-dibromonitrobenzene | 82.3 mmol, 23.1 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | Na2CO3 | 2M, 124 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 2.5 mmol, 2.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 9-(4-bromo-2-nitrophenyl)phenanthrene | BrC1=CC(=C(C=C1)C=1C2=CC=CC=C2C=2C=CC=CC2C1)[N+](=O)[O-] | C20H12BrNO2
